US05776983
1-(4-Methoxyphenyl)-2-(4-methoxyphenyl)ethanone was prepared from anisole and 4-methoxyphenylacetyl chloride (prepared by heating the commercially available carboxylic acid in thionyl chloride and subsequent concentration) using the method described in step A of Example 9. After step A, the product was chromatographed on silica gel using 3:2 hexane/EtOAc as eluant. 1-(4-methoxyphenyl)-2-(4-methoxyphenyl)ethanone was converted to the title compound following the procedures described in steps C-E of Example 1, except for the following modifications: 1) in step C, the acidic hydrolysis reaction, after dilution with H2O, was extracted 2× with Et2O prior to basification, extraction 3× with EtOAc and isolation of the desired amine after concentration; and 2) the prep HPLC purification of step D utilized 65% solvent B as eluant.

reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | 4-methoxyphenylacetyl chloride | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
product | 1-(4-Methoxyphenyl)-2-(4-methoxyphenyl)ethanone | COC1=CC=C(C=C1)C(CC1=CC=C(C=C1)OC)=O | C16H16O3
